US09102624B2
1-(4-Cyano-benzyl)-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid (2-hydroxy-ethyl)-amide
A solution of 1-(4-cyano-benzyl)-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid (preparation 1, 70 mg, 0.102 mmol), TBTU (37 mg, 0.115 mmol), DIPEA (40 μL, 0.234 mmol) in DMF (0.5 mL) is stirred for 15 min at room temperature. Ethanolamine (7 μL, 0.116 mmol) is added and the reaction mixture is stirred for 1.5 h at room temperature. The reaction mixture is purified by preparative reversed-phase HPLC (Sunfire, gradient of methanol in water, 0.1% TFA, 60° C.). Yield: 16 mg (34% of theory); ESI mass spectrum: [M+H]+=456; Retention time HPLC: 1.34 min (Z002—005).

reactant | 1-(4-cyano-benzyl)-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid | 0.102 mmol, 70 mg | C(#N)C1=CC=C(CN2C=C(C(C(=C2C)C2=CC(=CC=C2)C(F)(F)F)=O)C(=O)O)C=C1 | C22H15F3N2O3
reactant | TBTU | 0.115 mmol, 37 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.234 mmol, 40 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Ethanolamine | 0.116 mmol, 7 μL | C(O)CN | C2H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-(4-Cyano-benzyl)-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1=CN(C(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C)CC1=CC=C(C=C1)C#N | C24H20F3N3O3
